US07816558B2
5-Formyl-2-methoxybenzonitrile, sodium acetate and hydroxyamine were dissolved in ethanol, followed by stirring at 80° C. for 6 hours to obtain 5-[(hydroxyimino)methyl]-2-methoxybenzonitrile. APN: 175.

reactant | 5-Formyl-2-methoxybenzonitrile | C(=O)C=1C=CC(=C(C#N)C1)OC | C9H7NO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydroxyamine | ON | H3NO
solvent | ethanol | C(C)O | C2H6O
product | 5-[(hydroxyimino)methyl]-2-methoxybenzonitrile | ON=CC=1C=CC(=C(C#N)C1)OC | C9H8N2O2
